US04251528
A solution of sodium methoxide (25 ml. of a 1.0 M solution in methanol) was added to a solution of 2-(2-fluoro-4-bromobenzyl)-1,2-dihydro-1-oxophthalazin-4-ylacetic acid (9.87 g.) in methanol (300 ml.) and the mixture heated to its boling point. Methanol was then allowed to boil off until the volume of the mixture was approximately 100 ml. Isopropanol (150 ml.) was then added, followed by petrol (60-80) until the mixture was just opaque. The mixture was then allowed to cool to room temperature. The solid which formed was separated by filtration, evaporated with toluene (2×400 ml.) and then washed with ether (300 ml.) to give sodium 2-(2-fluoro-4-bromobenzyl)-1,2-dihydro-1-oxophthalazin-4-ylacetate, 6.5 g., m.p. 244°-247° C.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-(2-fluoro-4-bromobenzyl)-1,2-dihydro-1-oxophthalazin-4-ylacetic acid | 9.87 g | FC1=C(CN2C(C3=CC=CC=C3C(=N2)CC(=O)O)=O)C=CC(=C1)Br | C17H12BrFN2O3
reactant | Isopropanol | 150 ml | C(C)(C)O | C3H8O
solvent | methanol | CO | CH4O
solvent | methanol | 300 ml | CO | CH4O
product | sodium 2-(2-fluoro-4-bromobenzyl)-1,2-dihydro-1-oxophthalazin-4-ylacetate | FC1=C(CN2C(C3=CC=CC=C3C(=N2)CC(=O)[O-])=O)C=CC(=C1)Br.[Na+] | InChI=1S/C17H12BrFN2O3.Na/c18-11-6-5-10(14(19)7-11)9-21-17(24)13-4-2-1-3-12(13)15(20-21)8-16(22)23;/h1-7H,8-9H2,(H,22,23);/q;+1/p-1
